US04014920
75.8 g (0.3 mol) of 2-methyl-4-(p-acetoxy-benzylidene)-5(4H)-oxazolone are dissolved in a mixture of 725 ml of acetone and 281 ml of water and thereafter the solution is heated to the boil, under a reflux condenser, for 15 hours. Hereupon, a yellowish precipitate separates out. The reaction mixture is cooled and then filtered. The resulting crystals are recrystallised from acetone-water. p-Acetoxy-α-acetylaminocinnamic acid of melting point 236°-237°C is obtained.

reactant | 2-methyl-4-(p-acetoxy-benzylidene)-5(4H)-oxazolone | 0.3 mol, 75.8 g | CC=1OC(C(N1)=CC1=CC=C(C=C1)OC(C)=O)=O | C13H11NO4
reactant | acetone | 725 ml | CC(=O)C | C3H6O
solvent | water | 281 ml | O | H2O
product | p-Acetoxy-α-acetylaminocinnamic acid | C(C)(=O)OC1=CC=C(C=C(C(=O)O)NC(C)=O)C=C1 | C13H13NO5
